Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
s/p Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ with a history of frequent UTIs (q3-4months), 
mild protein C deficiency, lymphoma ___ years ago and 
hypertension who presents nausea, vomiting and fatigue. The 
patient reports that she was in her USOH until ___ prior 
to admission when she suffered a fall, which she believes was 
mechanical. She reports that she was walking down the sidewalk 
carrying two heavy bags of groceries when she suddenly fell. She 
denies LOC however fell on her right side and hit her head. She 
had significant epistaxis thereafter. She denies preceding CP, 
palpitations, SOB, or weakness however does remember feeling 
slightly fatigued. After falling she did not seek medical 
attention. She continued feeling fatigued through ___ and 
___ and reported headache. On day of presentation, she began 
having nausea and vomiting and decided to present to the ED for 
evaluation. She reports that she often feels this way prior to 
have UTI. She noted malodorous urine and hematuria but denied 
dysuria.

In ED, initial VS were 97.6 90 193/93 18 100% RA. Labs showed 
leukocytosis to 14, hyponatremia to 125 and +UA. She received 
zofran x2, tylenol, CTX 1g and 1LNS. She underwent a CT 
head/neck given fall which did not show an acute process. She 
was then admitted to medical floor for further evaluation. 

On encounter, she reports a dull headache across the front of 
the head.

ROS: A 10 point ROS was completed and otherwise negative.
 
Past Medical History:
Hypertension
Protein C Deficiency - previously on Warfarin
Non Hogdkins Lymphoma, treated ___ years with Rituximab
 
Social History:
___
Family History:
One son with epilepsy and one son with ___ C deficiency
 
Physical Exam:
VS: 97.4 136/80 73 20 97% RA
Gen: tired appearing, NAD
HEENT: bilateral infero-orbital ecchymoses
CV: nls1s2 RRR, no m/r/g
Pulm: CTAB
Abd: soft, NT ND +BS
Ext: wwp, no edema
Neuro: grossly intact
Skin: no obvious concerning lesions.
 
Pertinent Results:
Admission Labs:
___ 11:24AM   GLUCOSE-116* UREA N-8 CREAT-0.6 SODIUM-125* 
POTASSIUM-3.4 CHLORIDE-86* TOTAL CO2-24 ANION GAP-18
___ 11:24AM   estGFR-Using this
___ 11:24AM   WBC-14.0* RBC-4.29 HGB-13.2 HCT-38.3 MCV-89 
MCH-30.8 MCHC-34.5 RDW-12.9 RDWSD-42.1
___ 11:24AM   NEUTS-73.9* ___ MONOS-5.7 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-10.35* AbsLymp-2.72 AbsMono-0.80 
AbsEos-0.04 AbsBaso-0.04
___ 11:24AM   PLT COUNT-230
___ 10:52AM URINE  HOURS-RANDOM
___ 10:52AM URINE  UHOLD-HOLD
___ 10:52AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 10:52AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-LG
___ 10:52AM URINE  RBC->182* WBC-125* BACTERIA-FEW 
YEAST-NONE EPI-<1
___ 10:52AM URINE  MUCOUS-RARE

Discharge Labs:
___ 09:25PM   SODIUM-131* POTASSIUM-3.2* CHLORIDE-92*
___ 01:30PM BLOOD Na-132* K-3.6 Cl-96
___ 06:20AM BLOOD WBC-8.4 RBC-4.38 Hgb-13.7 Hct-38.8 MCV-89 
MCH-31.3 MCHC-35.3 RDW-13.0 RDWSD-42.2 Plt ___

Urine Culture:
Time Taken Not Noted     Log-In Date/Time: ___ 8:35 am
      URINE     Site: NOT SPECIFIED

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

Imaging:
- CT head: No acute intracranial process.
- CT neck:
1. No cervical spine fracture.
2. Mild anterior disc widening at C6-7 and mild anterolisthesis 
at multiple levels while likely degenerative, without prior 
studies for comparison, ligamentous injury cannot be entirely 
excluded.
3. Enlarged and multinodular right thyroid lobe, nonemergent 
thyroid
ultrasound is recommended for further evaluation.
 
RECOMMENDATION(S): Enlarged and multinodular right thyroid lobe, 
nonemergent thyroid ultrasound is recommended for further 
evaluation.\

 
Brief Hospital Course:
___ with history of HTN, ?Protein C deficiency and recurrent 
UTI presenting with nausea vomiting and dysuria found to have 
hyponatremia and positive UA.

ACTIVE ISSUES:
# Hyponatremia: Patient presented with fatigue, nausea and 
vomiting and was found to be hyponatremic, which improved with 
fluids suggesting pre-renal cause. Na on discharge was 132. 
Patient was encouraged to continue drinking fluids

# Acute Cystitis: Likely reason for fatigue, nausea and 
vomiting. Had leukocytosis on admission which resolved with 
initiation of antibiotics. Patient intially on ceftriaxone and 
transitioned to cipro at discharge. Culture pending at 
discharge. Will follow up and update patient if adjustment is 
needed

# Hypertension: Patient initially hypertension on admission 
however she had not been taking home mediation because of 
nausea/vomiting. Started her on amlopidine 10mg (as she takes 
Lercandipine 10mg, which is non-formulary in US). Patient ran 
out of medication and will be returning back to ___ on ___. 
Given short Rx for amlopidine while she is here.

# Recent Fall: Patient had mechanical fall. CT head and neck 
were largely unremarkable though CT neck unable to fully rule 
out ligamentous injury. Exam though was reassuring as she had 
full ROM of neck without pain

# Incident Finding: Patient found to have irregular, enlarged 
thyroid on CT neck. TSH normal. Advised patient to have 
ultrasound when she returns home.
 
Medications on Admission:
Lercandipine 10mg daily
 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*8 Tablet 
Refills:*0
2. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary Tract Infection
Hyponatremia
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to hospital because you were feeling nauseated 
and fatigued. You were found to have low sodium which is likely 
the result of dehydration in the setting of a urinary tract 
infeciton. You will need to take an antibiotic for 5 additional 
days. In addition please be sure to take in extra fluids to 
remain hydrated. 

We are prescribing you a medication for your blood pressure 
called amlopidine. This is closely related to your regular 
medication, Lercandipine, which is not available in the US. 
Please take this medication until you return back home and can 
refill your own prescription.

Lastly, the CAT scan of your neck showed that your thyroid was 
slightly irregular and enlarged. You should visit your primary 
care doctor when you return home to have an ultrasound of your 
thyroid. We checked your thyroid function here and it normal.
 
Followup Instructions:
___